* File: INVD2.pex.netlist.pex
* Created: Sat Dec 13 10:53:13 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD2_net10 13 17 39 41 48 51 58 59 61 68 71 78 82 84 89 90 91 92 93
+ 94 95
r42 104 107 0.0984
r43 101 104 0.0984
r44 97 101 0.0984
r45 93 95 0.266131
r46 93 94 21.2905
r47 77 78 0.62445
r48 77 92 0.62445
r49 71 84 0.0151417
r50 71 78 0.624484
r51 70 83 0.231882
r52 69 84 0.231882
r53 69 70 0.53136
r54 67 68 0.62445
r55 67 91 0.62445
r56 61 83 0.0151417
r57 61 68 0.624484
r58 60 82 0.231882
r59 59 83 0.231882
r60 59 60 0.53136
r61 57 58 0.62445
r62 57 90 0.62445
r63 51 82 0.0151417
r64 51 58 0.624484
r65 50 81 0.231882
r66 49 82 0.231882
r67 49 50 0.53136
r68 47 48 0.62445
r69 47 89 0.62445
r70 41 81 0.0151417
r71 41 48 0.624484
r72 39 81 0.231882
r73 39 40 0.92988
r74 37 107 1
r75 35 104 1
r76 35 37 0.2952
r77 33 101 1
r78 33 35 0.2952
r79 30 31 0.9594
r80 29 97 1
r81 29 33 0.2952
r82 29 31 0.9594
r83 27 40 0.260498
r84 27 30 0.9594
r85 17 107 1
r86 17 95 7.17942
r87 15 104 1
r88 15 17 5.2214
r89 13 101 1
r90 13 15 5.2214
r91 11 97 1
r92 11 95 2.74292
r93 11 13 5.2214
r94 5 94 7.46165
r95 5 94 13.0535
r96 1 95 1.91854
r97 1 93 29.3704
.ends

.subckt PM_INVD2_VSS 1 100 101 102 103 104 105
r16 114 117 0.126514
r17 111 114 0.126514
r18 107 111 0.126514
r19 96 117 1
r20 94 114 1
r21 94 96 0.2952
r22 92 111 1
r23 92 94 0.2952
r24 89 107 1
r25 89 92 0.2952
r26 87 96 0.221385
r27 86 97 0.397738
r28 85 87 0.260498
r29 85 86 0.8856
r30 81 97 0.0706443
r31 81 101 0.474429
r32 79 97 0.397738
r33 79 80 0.53136
r34 75 80 0.327655
r35 75 100 0.474429
r36 58 105 13.5974
r37 57 58 13.5974
r38 54 74 2.30802
r39 54 57 13.5974
r40 50 105 3.26338
r41 50 105 29.3704
r42 49 71 4.57327
r43 48 74 4.57327
r44 48 49 33.0689
r45 47 104 13.5974
r46 46 47 13.5974
r47 43 71 2.30802
r48 43 46 13.5974
r49 39 104 3.26338
r50 39 104 29.3704
r51 37 68 5.52744
r52 36 71 4.57327
r53 34 117 1
r54 34 103 15.0705
r55 32 114 1
r56 32 34 8.70233
r57 30 111 1
r58 30 32 8.70233
r59 27 28 23.9314
r60 26 107 1
r61 26 30 8.70233
r62 26 28 23.9319
r63 22 68 1.43649
r64 22 27 23.9314
r65 18 103 3.26338
r66 18 103 13.9123
r67 16 17 19.7251
r68 15 61 5.52744
r69 15 16 19.7251
r70 14 68 5.52744
r71 14 17 19.7256
r72 10 102 3.26338
r73 10 102 13.9123
r74 9 102 27.9718
r75 8 9 27.9718
r76 4 61 1.43649
r77 4 8 27.9718
r78 1 36 25.7154
r79 1 37 22.1474
.ends

.subckt PM_INVD2_VDD 1 12 24 33 45 46 47
r21 33 44 2.30802
r22 33 47 26.1059
r23 27 47 3.26338
r24 27 47 29.3704
r25 26 41 4.57327
r26 25 44 4.57327
r27 25 26 33.0689
r28 24 41 2.30802
r29 24 46 26.1059
r30 18 46 3.26338
r31 18 46 29.3704
r32 16 17 15.5772
r33 14 38 4.57327
r34 14 16 15.5772
r35 13 41 4.57327
r36 12 38 2.30802
r37 12 45 26.1059
r38 6 45 3.26338
r39 6 45 29.3704
r40 1 13 38.5513
r41 1 17 15.5772
.ends

.subckt PM_INVD2_OUT 1 7 18 32 52 54 55 56 57 58 59
r33 52 53 0.755993
r34 52 59 0.755993
r35 46 57 0.755993
r36 46 55 6.04794
r37 43 55 0.755993
r38 42 43 0.755993
r39 41 58 6.52456
r40 35 54 6.52456
r41 32 53 15.4223
r42 32 41 19.5802
r43 27 52 10.3074
r44 27 59 29.3704
r45 23 58 3.26338
r46 23 58 29.3704
r47 19 57 10.3074
r48 19 57 29.3704
r49 18 46 15.4223
r50 18 56 11.4207
r51 12 56 3.26338
r52 12 56 29.3704
r53 8 43 10.3074
r54 8 55 29.3704
r55 7 42 15.4223
r56 7 35 19.5802
r57 2 54 3.26338
r58 2 54 29.3704
r59 1 59 1.25495
r60 1 57 5.54899
.ends

.subckt PM_INVD2_IN 1 7 14 15 17 24 29 36 37 39 46 49 56 57 59 66 78 79 80 81 82
+ 83
r46 65 66 0.62445
r47 65 83 0.62445
r48 59 66 0.624484
r49 58 71 0.231882
r50 57 59 0.252919
r51 57 58 0.53136
r52 55 56 0.62445
r53 55 82 0.62445
r54 49 71 0.0151417
r55 49 56 0.624484
r56 48 70 0.231882
r57 47 71 0.231882
r58 47 48 0.53136
r59 45 46 0.62445
r60 45 81 0.62445
r61 39 70 0.0151417
r62 39 46 0.624484
r63 38 69 0.231882
r64 37 70 0.231882
r65 37 38 0.53136
r66 35 36 0.62445
r67 35 80 0.62445
r68 29 69 0.0151417
r69 29 36 0.624484
r70 27 28 1.06272
r71 26 68 0.231882
r72 26 27 1.06272
r73 25 69 0.231882
r74 25 28 1.06272
r75 23 24 0.62445
r76 23 79 0.62445
r77 17 68 0.0151417
r78 17 24 0.624484
r79 16 67 0.231882
r80 15 68 0.231882
r81 15 16 0.53136
r82 13 14 0.62445
r83 13 78 0.62445
r84 7 67 0.0151417
r85 7 14 0.624484
r86 5 67 0.231882
r87 5 6 1.19556
r88 2 6 0.311719
r89 1 2 0.726192
.ends

