* File: INVD4.pex.netlist.pex
* Created: Sat Dec 13 10:55:38 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD4_net10 21 25 39 53 55 62 65 72 73 75 82 85 92 93 95 102 105 112
+ 113 115 122 125 132 134 136 138 148 149 150 151 152 153 154 155 156 157 158
+ 159 160
r84 169 172 0.0984
r85 166 169 0.0984
r86 162 166 0.0984
r87 131 132 0.62445
r88 131 155 0.62445
r89 125 132 0.624484
r90 124 139 0.231882
r91 123 125 0.252919
r92 123 124 0.53136
r93 121 122 0.62445
r94 121 154 0.62445
r95 115 139 0.0151417
r96 115 122 0.624484
r97 114 138 0.231882
r98 113 139 0.231882
r99 113 114 0.53136
r100 111 112 0.62445
r101 111 153 0.62445
r102 105 138 0.0151417
r103 105 112 0.624484
r104 104 137 0.231882
r105 103 138 0.231882
r106 103 104 0.53136
r107 101 102 0.62445
r108 101 152 0.62445
r109 95 137 0.0151417
r110 95 102 0.624484
r111 94 136 0.231882
r112 93 137 0.231882
r113 93 94 0.53136
r114 91 92 0.62445
r115 91 151 0.62445
r116 85 136 0.0151417
r117 85 92 0.624484
r118 84 135 0.231882
r119 83 136 0.231882
r120 83 84 0.53136
r121 81 82 0.62445
r122 81 150 0.62445
r123 75 135 0.0151417
r124 75 82 0.624484
r125 74 134 0.231882
r126 73 135 0.231882
r127 73 74 0.53136
r128 71 72 0.62445
r129 71 149 0.62445
r130 65 134 0.0151417
r131 65 72 0.624484
r132 64 133 0.231882
r133 63 134 0.231882
r134 63 64 0.53136
r135 61 62 0.62445
r136 61 148 0.62445
r137 55 133 0.0151417
r138 55 62 0.624484
r139 53 133 0.231882
r140 53 54 0.92988
r141 51 172 1
r142 49 169 1
r143 49 51 0.2952
r144 47 166 1
r145 47 49 0.2952
r146 44 45 0.9594
r147 43 162 1
r148 43 47 0.2952
r149 43 45 0.9594
r150 41 54 0.260498
r151 41 44 0.9594
r152 39 40 1.09448
r153 39 160 14.0018
r154 36 39 2.91861
r155 36 159 10.5595
r156 35 36 3.64827
r157 35 158 10.5595
r158 33 35 6.56688
r159 33 157 15.6932
r160 31 33 0.729653
r161 29 31 0.729653
r162 29 156 10.5595
r163 25 172 1
r164 25 160 7.17942
r165 23 169 1
r166 23 25 5.2214
r167 21 166 1
r168 21 23 5.2214
r169 19 162 1
r170 19 40 8.99303
r171 19 21 5.2214
r172 13 36 10.5595
r173 13 159 13.0535
r174 9 35 10.5595
r175 9 158 29.3704
r176 5 31 10.5595
r177 5 157 29.3704
r178 1 29 10.5595
r179 1 156 13.0535
.ends

.subckt PM_INVD4_VSS 1 157 158 159 160 161 162 163 164 165 166 167
r32 176 179 0.126514
r33 173 176 0.126514
r34 169 173 0.126514
r35 149 179 1
r36 147 176 1
r37 147 149 0.2952
r38 145 173 1
r39 145 147 0.2952
r40 142 169 1
r41 142 145 0.2952
r42 140 149 0.221385
r43 139 152 0.397738
r44 138 140 0.260498
r45 138 139 0.8856
r46 134 152 0.0706443
r47 134 160 0.474429
r48 133 151 0.397738
r49 132 152 0.397738
r50 132 133 0.53136
r51 128 151 0.0706443
r52 128 159 0.474429
r53 127 150 0.397738
r54 126 151 0.397738
r55 126 127 0.53136
r56 122 150 0.0706443
r57 122 158 0.474429
r58 120 150 0.397738
r59 120 121 0.53136
r60 116 121 0.327655
r61 116 157 0.474429
r62 91 167 13.5974
r63 90 91 13.5974
r64 87 115 2.30802
r65 87 90 13.5974
r66 83 167 3.26338
r67 83 167 29.3704
r68 82 112 4.57327
r69 81 115 4.57327
r70 81 82 33.0689
r71 80 166 13.5974
r72 79 80 13.5974
r73 76 112 2.30802
r74 76 79 13.5974
r75 72 166 3.26338
r76 72 166 29.3704
r77 71 109 4.57327
r78 70 112 4.57327
r79 70 71 33.0689
r80 69 165 13.5974
r81 68 69 13.5974
r82 65 109 2.30802
r83 65 68 13.5974
r84 61 165 3.26338
r85 61 165 29.3704
r86 60 106 4.57327
r87 59 109 4.57327
r88 59 60 33.0689
r89 58 164 13.5974
r90 57 58 13.5974
r91 54 106 2.30802
r92 54 57 13.5974
r93 50 164 3.26338
r94 50 164 29.3704
r95 48 103 5.52744
r96 47 106 4.57327
r97 45 179 1
r98 45 163 15.0705
r99 43 176 1
r100 43 45 8.70233
r101 41 173 1
r102 41 43 8.70233
r103 38 39 23.9314
r104 37 169 1
r105 37 41 8.70233
r106 37 39 23.9319
r107 33 103 1.43649
r108 33 38 23.9314
r109 29 163 3.26338
r110 29 163 13.9123
r111 27 28 19.7251
r112 26 99 4.57327
r113 26 27 19.7251
r114 25 103 5.52744
r115 25 28 19.7256
r116 24 162 24.4753
r117 23 24 24.4753
r118 20 99 2.30802
r119 20 23 24.4753
r120 16 162 3.26338
r121 16 162 13.0535
r122 14 15 19.7251
r123 13 14 19.7251
r124 12 99 4.57327
r125 12 15 19.7256
r126 8 161 3.26338
r127 8 161 13.9123
r128 7 161 27.9718
r129 6 7 27.9718
r130 2 13 7.29337
r131 2 6 27.9718
r132 1 47 21.7993
r133 1 48 26.0635
.ends

.subckt PM_INVD4_VDD 1 12 21 33 42 51 60 81 82 83 84 85 86
r42 60 80 2.30802
r43 60 86 26.1059
r44 54 86 3.26338
r45 54 86 29.3704
r46 53 77 4.57327
r47 52 80 4.57327
r48 52 53 33.0689
r49 51 77 2.30802
r50 51 85 26.1059
r51 45 85 3.26338
r52 45 85 29.3704
r53 44 74 4.57327
r54 43 77 4.57327
r55 43 44 33.0689
r56 42 74 2.30802
r57 42 84 26.1059
r58 36 84 3.26338
r59 36 84 29.3704
r60 35 71 4.57327
r61 34 74 4.57327
r62 34 35 33.0689
r63 33 71 2.30802
r64 33 83 26.1059
r65 27 83 3.26338
r66 27 83 29.3704
r67 25 26 22.2488
r68 23 68 4.57327
r69 23 25 22.2488
r70 22 71 4.57327
r71 21 68 2.30802
r72 21 82 26.1059
r73 15 82 3.26338
r74 15 82 29.3704
r75 14 65 4.57327
r76 13 68 4.57327
r77 13 14 33.0689
r78 12 65 2.30802
r79 12 81 26.1059
r80 6 81 3.26338
r81 6 81 29.3704
r82 1 22 18.536
r83 1 26 22.2493
.ends

.subckt PM_INVD4_OUT 1 7 18 29 40 86 88 89 90 91 92 93 94 95 96 97
r66 86 87 0.76053
r67 86 97 0.76053
r68 80 95 0.76053
r69 80 93 6.84477
r70 77 93 0.76053
r71 77 91 6.84477
r72 74 91 0.76053
r73 74 89 6.08424
r74 71 89 0.76053
r75 70 71 0.76053
r76 69 96 6.52456
r77 57 88 6.52456
r78 54 87 15.3767
r79 54 69 19.5802
r80 49 86 10.265
r81 49 97 29.3704
r82 45 96 3.26338
r83 45 96 29.3704
r84 41 95 10.265
r85 41 95 29.3704
r86 40 80 15.3767
r87 40 94 11.4207
r88 34 94 3.26338
r89 34 94 29.3704
r90 30 93 10.265
r91 30 93 29.3704
r92 29 77 15.3767
r93 29 92 11.4207
r94 23 92 3.26338
r95 23 92 29.3704
r96 19 91 10.265
r97 19 91 29.3704
r98 18 74 15.3767
r99 18 90 11.4207
r100 12 90 3.26338
r101 12 90 29.3704
r102 8 71 10.265
r103 8 89 29.3704
r104 7 70 15.3767
r105 7 57 19.5802
r106 2 88 3.26338
r107 2 88 29.3704
r108 1 97 5.40736
r109 1 95 1.4374
.ends

.subckt PM_INVD4_IN 1 7 14 15 17 24 27 34 35 37 44 49 56 57 59 66 69 76 77 79 86
+ 89 96 97 99 106 109 116 117 119 126 150 151 152 153 154 155 156 157 158 159
+ 160 161
r92 125 126 0.62445
r93 125 161 0.62445
r94 119 126 0.624484
r95 118 137 0.231882
r96 117 119 0.252919
r97 117 118 0.53136
r98 115 116 0.62445
r99 115 160 0.62445
r100 109 137 0.0151417
r101 109 116 0.624484
r102 108 136 0.231882
r103 107 137 0.231882
r104 107 108 0.53136
r105 105 106 0.62445
r106 105 159 0.62445
r107 99 136 0.0151417
r108 99 106 0.624484
r109 98 135 0.231882
r110 97 136 0.231882
r111 97 98 0.53136
r112 95 96 0.62445
r113 95 158 0.62445
r114 89 135 0.0151417
r115 89 96 0.624484
r116 88 134 0.231882
r117 87 135 0.231882
r118 87 88 0.53136
r119 85 86 0.62445
r120 85 157 0.62445
r121 79 134 0.0151417
r122 79 86 0.624484
r123 78 133 0.231882
r124 77 134 0.231882
r125 77 78 0.53136
r126 75 76 0.62445
r127 75 156 0.62445
r128 69 133 0.0151417
r129 69 76 0.624484
r130 68 132 0.231882
r131 67 133 0.231882
r132 67 68 0.53136
r133 65 66 0.62445
r134 65 155 0.62445
r135 59 132 0.0151417
r136 59 66 0.624484
r137 58 131 0.231882
r138 57 132 0.231882
r139 57 58 0.53136
r140 55 56 0.62445
r141 55 154 0.62445
r142 49 131 0.0151417
r143 49 56 0.624484
r144 47 48 1.06272
r145 46 130 0.231882
r146 46 47 1.06272
r147 45 131 0.231882
r148 45 48 1.06272
r149 43 44 0.62445
r150 43 153 0.62445
r151 37 130 0.0151417
r152 37 44 0.624484
r153 36 129 0.231882
r154 35 130 0.231882
r155 35 36 0.53136
r156 33 34 0.62445
r157 33 152 0.62445
r158 27 129 0.0151417
r159 27 34 0.624484
r160 26 128 0.231882
r161 25 129 0.231882
r162 25 26 0.53136
r163 23 24 0.62445
r164 23 151 0.62445
r165 17 128 0.0151417
r166 17 24 0.624484
r167 16 127 0.231882
r168 15 128 0.231882
r169 15 16 0.53136
r170 13 14 0.62445
r171 13 150 0.62445
r172 7 127 0.0151417
r173 7 14 0.624484
r174 5 127 0.231882
r175 5 6 1.19556
r176 2 6 0.311719
r177 1 2 0.695196
.ends

